US07777047B2
N-[2-{5-[2-(3-hydroxyazetidin-1-yl)-2-oxoethyl]-4,5-dihydro-1,3-thiazol-2-yl}-5-(2-methoxyethoxy)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide
A mixture of azetidin-3-ol hydrochloride (80 mg), triethylamine (75 mg) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 15 min. (2-{5-(2-Methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (250 mg), 1H-1,2,3-benzotriazol-1-ol (100 mg) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (140 mg) were added to the reaction mixture, and the mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-methanol (100:0-95:5, volume ratio) to give the title compound (80 mg, yield 29%) as a colorless amorphous solid.

reactant | azetidin-3-ol hydrochloride | 80 mg | Cl.N1CC(C1)O
reactant | (2-{5-(2-Methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 250 mg | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CC(=O)O | C22H24N4O6S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 100 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 140 mg | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 75 mg | C(C)N(CC)CC | C6H15N
product | N-[2-{5-[2-(3-hydroxyazetidin-1-yl)-2-oxoethyl]-4,5-dihydro-1,3-thiazol-2-yl}-5-(2-methoxyethoxy)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide | 80 mg, yield 29% | OC1CN(C1)C(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)=O | C25H29N5O6S2
